US09260441B2
Step B: 2-Bromo-6-methyl-4-nitro-pyridine 1-oxide
To cooled nitric acid (concentrated, 168 ml) was added sulfuric acid (concentrated, 300 ml) under cooling followed by 2-bromo-6-methyl-pyridine 1-oxide (35 g, 0.186 mol). The mixture was stirred at 70° C. for 4 hours, cooled to room temperature and poured slowly on crushed ice. A stream of nitrogen was bubbled through the mixture overnight. The mixture was basified to pH 8 under cooling with NaOH (10N, ca. 1 L), diluted with water (3 L) and extracted with DCM (5×). The combined organic phases were dried (sodium sulfate) and evaporated to dryness to yield 27.6 g of a yellow crystalline solid (0.118 mol, 57%).

reactant | nitric acid | 168 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-bromo-6-methyl-pyridine 1-oxide | 0.186 mol, 35 g | BrC1=[N+](C(=CC=C1)C)[O-] | C6H6BrNO
solvent | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Bromo-6-methyl-4-nitro-pyridine 1-oxide | 0.118 mol, 27.6 g, 57% | BrC1=[N+](C(=CC(=C1)[N+](=O)[O-])C)[O-] | C6H5BrN2O3
